US04279920
90 g of bromine, dissolved in 250 ml of methylene chloride, were added dropwise to a solution of 131 g (0.5 mol) of triphenylphosphine in 500 ml of methylene chloride at 30°-35° C., with exclusion of moisture. The mixture was subsequently stirred at room temperature for 1 hour, a solution of 122 g (0.5 mol) of α-hydroxybenzylphosphonic acid diethyl ester in 250 ml of methylene chloride was then added dropwise at -20° C. in the course of 1 hour, the mixture was subsequently stirred at -20° C. for 1 hour and 40 g of pyridine, dissolved in 250 ml of methylene chloride, were then added dropwise at -20° C. in the course of one hour. The mixture was subsequently stirred for 20 hours, the temperature slowly rising to +20° C. The reaction mixture was transferred to a pear-shaped flask and the solvent was distilled off under a waterpump vacuum. The residue was extracted by stirring with one liter of ether and the undissolved triphenylphosphine oxide was filtered off (120 g of triphenylphosphine oxide=86% of theory). The mother liquor was concentrated in vacuo and the residue was distilled under a high vacuum. 112 g (72% of theory) of α-bromobenzyl-phosphonic acid diethyl ester were obtained as a pale yellow oil with a boiling point of 110° C./0.01 mm Hg and a purity of 95.9% (gas chromatography).

reactant | bromine | 90 g | BrBr | Br2
reactant | triphenylphosphine | 0.5 mol, 131 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | α-hydroxybenzylphosphonic acid diethyl ester | 0.5 mol, 122 g | C(C)OP(OCC)(=O)C(C1=CC=CC=C1)O | C11H17O4P
reactant | pyridine | 40 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | α-bromobenzyl-phosphonic acid diethyl ester | 112 g, 72% | C(C)OP(OCC)(=O)C(C1=CC=CC=C1)Br | C11H16BrO3P
